US05665718
1.5 g (4.5 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at 80° for 2 hours in 1.1 ml (14 mmol) of pyrrolidine and 30 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with methylene chloride/methanol 19/1 there were obtained 1.4 g (84%) of 5-methyl-3-[5-(pyrrolidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p 251°-254°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 4.5 mmol, 1.5 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | pyrrolidine | 14 mmol, 1.1 ml | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-methyl-3-[5-(pyrrolidin-1-yl)methyl-1,2,4-oxadiazol-3-yl]-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.4 g, 84% | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C2=NOC(=N2)CN2CCCC2 | C19H20N6O2
